US05087621
A mixture of 250 mg (0.8 mmol) of 9-cyclopropyl-6,7,8-trifluoro-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione, 255 mg (1.6 mmol) of 3-methyl-3-aminoazetidine dihydrochloride and 0.6 ml of triethylamine in 10 ml of pyridine is kept refluxing for 2 hours, the mixture is evaporated under vacuum, a mixture of ethanol with water is added, the resulting mixture is filtered and the product is washed. 0.225 g of 9-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione, melting point 294°-300° C., is thereby obtained.

reactant | 9-cyclopropyl-6,7,8-trifluoro-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione | 0.8 mmol, 250 mg | C1(CC1)N1C2=C(C(C3=CC(=C(C(=C13)F)F)F)=O)C(NS2)=O | C13H7F3N2O2S
reactant | 3-methyl-3-aminoazetidine dihydrochloride | 1.6 mmol, 255 mg | Cl.Cl.CC1(CNC1)N
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 9-cyclopropyl-6,8-difluoro-7-(3-amino-3-methyl-1-azetidinyl)-2,3,4,9-tetrahydroisothiazolo[5,4-b]quinoline-3,4-dione | 0.225 g | C1(CC1)N1C2=C(C(C3=CC(=C(C(=C13)F)N1CC(C1)(C)N)F)=O)C(NS2)=O | C17H16F2N4O2S
